US06710906B2
Second, a mixture of 1.0 g (0.0056 mol) of 3,8-phenanthroline and 18.0 g (0.034 mol) of (3-bromopropyl)triphenylphosphonium hexafluorophosphate (obtained from the metathesis of (3-bromopropyl)triphenylphosphonium bromide with NaPF6) and 50 mL of DMF was heated under N2 to 95° C. overnight. After cooling to room temperature 150 mL of acetone was added to the reaction and a solid precipitated. This solid was isolated by vacuum filtration and then dissolved in a minimum amount of water. To this solution was added 1M aqueous NaBF4 until a precipitate formed. The solid was isolated by vacuum filtration and then recrystallized twice from ethanol and 1M aqueous NaBF4 and once from ethanol, acetonitrile and 1M aqueous NaBF4. Decolorization was achieved with charcoal during recrystallization. After drying under vacuum at 70° C. 4.1 g (65% yield) of an off-white solid was obtained.

reactant | 3,8-phenanthroline | 0.0056 mol, 1.0 g | C1=CN=CC2=CC=C3C=NC=CC3=C12 | C12H8N2
reactant | (3-bromopropyl)triphenylphosphonium hexafluorophosphate | 0.034 mol, 18.0 g | F[P-](F)(F)(F)(F)F.BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (3-bromopropyl)triphenylphosphonium bromide | [Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H21BrP.BrH/c22-17-10-18-23(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;/h1-9,11-16H,10,17-18H2;1H/q+1;/p-1
